US04940704
5-Acetyl-5,6-dihydropyrido[3,4-b][1,4]benzoxazepine hydrochloride
A solution of 5,6-dihydropyrido[3,4-b][1,4]benzoxazepine (2.8 g) in acetic anhydride (15 ml) was stirred for one hr at ambient temperature. The reaction mixture was poured over ice, basified with sodium carbonate solution and extracted with ether. The organic extract was washed with water, saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and evaporated. The residue was purified by flash chromatography (silica, ethyl acetate) to give 3 g (88%) of producet, mp 130°-133° C. The product was converted to the hydrochloride salt by treatment with ethereal hydrogen chloride in ethanol. Recrystallization from ethanol-ether gave the analytical sample, mp 225°-227° C. (dec).

reactant | 5,6-dihydropyrido[3,4-b][1,4]benzoxazepine | 2.8 g | C1=NC=CC2=C1OC1=C(CN2)C=CC=C1 | C12H10N2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
product | 5-Acetyl-5,6-dihydropyrido[3,4-b][1,4]benzoxazepine hydrochloride | Cl.C(C)(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=NC=C2 | InChI=1S/C14H12N2O2.ClH/c1-10(17)16-9-11-4-2-3-5-13(11)18-14-8-15-7-6-12(14)16;/h2-8H,9H2,1H3;1H
